US06635690B2
Crosslinked compositions with low tack can be of use in particular applications. Compositions with these properties are described in the following three examples. In a glass polymerization bottle were charged 72 g IOA, 18 g octadecyl acrylate (ODA), 10 g HEMA, 150 g ethyl acetate, and 0.4 g VAZO-67 (Wako). The bottle was purged with nitrogen, sealed, and tumbled in a water bath maintained at 60° C. for 16 hrs. The resulting terpolymer, IOA/ODA/HEMA, was isolated by precipitation in petroleum ether. The terpolymer (polymer XIII) has a number average molecular weight of 26,000.

reactant | octadecyl acrylate | 18 g | C(C=C)(=O)OCCCCCCCCCCCCCCCCCC | C21H40O2
reactant | HEMA | 10 g | CC(=C)C(=O)OCCO | C6H10O3
reactant | VAZO-67 | 0.4 g | CCC(C)(C#N)N=NC(C)(CC)C#N | C10H16N4
solvent | ethyl acetate | 150 g | C(C)(=O)OCC | C4H8O2
product | ODA HEMA | C(C=C)(=O)OCCCCCCCCCCCCCCCCCC.CC(=C)C(=O)OCCO | InChI=1S/C21H40O2.C6H10O3/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-23-21(22)4-2;1-5(2)6(8)9-4-3-7/h4H,2-3,5-20H2,1H3;7H,1,3-4H2,2H3
